US06458798B1
N-(2-Amino-5-(2-methoxyethyl)-6-methylpyrimidine-4-yl)-N-pentylamine
A mixture of 4-chloro-5-(2-methoxyethyl)-6-methylpyrimidine-2-ylamine (150 mg, 0.74 mmol), amylamine (0.86 ml) and dioxane (1.5 ml) was kept at 90° C. for 7 hours. The reaction mixture was concentrated in vacuo, and the residue was extracted with chloroform and a saturated aqueous NaHCO3 solution. The organic layer was washed with saturated brine, dried over sodium sulfate, filtered and the filtrate was concentrated in vacuo. The residue was purified by column chromatography (4%MeOH: CHCl3) to give the object compound (108 mg, 57.5%).

reactant | 4-chloro-5-(2-methoxyethyl)-6-methylpyrimidine-2-ylamine | 0.74 mmol, 150 mg | ClC1=NC(=NC(=C1CCOC)C)N | C8H12ClN3O
reactant | amylamine | 0.86 ml | C(CCCC)N | C5H13N
solvent | dioxane | 1.5 ml | O1CCOCC1 | C4H8O2
product | N-(2-Amino-5-(2-methoxyethyl)-6-methylpyrimidine-4-yl)-N-pentylamine | 108 mg, 57.5% | NC1=NC(=C(C(=N1)NCCCCC)CCOC)C | C13H24N4O
